US07572909B2
Stereoselective glycosylation of sodium salts of halopurines and analogues with 2-deoxy-3,5-di-O-p-toluoyl-α-D-erythro-pentofuranosyl chloride gave β-nucleoside anomers via predominant Walden inversion,17,18 and ammonolysis/deprotection gave CldAdo.19 Although the sodium salt glycosylation usually gave good anomeric stereoselectivity, minor quantities of α anomers and >10% of N7 regioisomers were usually formed.20,21 This requires separations and results in diminished yields of the desired N9 product. Carson et al.1 had reported an enzymatic transfer of the 2-deoxy sugar from thymidine to 2-chloroadenine (ClAde). Holy and coworkers noted that cells of a strain of Escherichia coli performed glycosyl transfer from 2′-deoxyuridine to 2-chloro-6-[(dimethylaminomethylene)amino]purine to give a derivative of CldAdo.22 Very recently Barai, Mikhailopulo, and coworkers23 described an E. coli-mediated glycosyl transfer synthesis of 2,6-diamino-9-(3-deoxy-β-D-erythro-pentofuranosyl)purine,24 and its enzymatic deamination to 3′-deoxyguanosine.24 They reported glycosyl transfer from 2′-deoxyguanosine to ClAde, and claimed a yield of 81% of CldAdo (based on ClAde).23 However, a 3:1 ratio of dGuo/ClAde was employed, so the yield of CldAdo was <27% based on dGuo.

reactant | sodium | [Na] | Na
reactant | thymidine | [C@@H]1(C[C@H](O)[C@@H](CO)O1)N1C(=O)NC(=O)C(C)=C1 | C10H14N2O5
reactant | 2-chloroadenine | ClC1=NC(=C2NC=NC2=N1)N | C5H4ClN5
reactant | 2′-deoxyuridine | [C@@H]1(C[C@H](O)[C@@H](CO)O1)N1C(=O)NC(=O)C=C1 | C9H12N2O5
reactant | 2-chloro-6-[(dimethylaminomethylene)amino]purine | ClC1=NC(=C2NC=NC2=N1)N=CN(C)C | C8H9ClN6
product | CldAdo | C1[C@@H]([C@H](O[C@H]1N2C=NC3=C2N=C(N=C3N)Cl)CO)O | C10H12ClN5O3
